US09278931B2
B) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-2-fluoro-5-(trifluoromethyl)benzamide hydrochloride
A solution of tert-butyl(cyclopropylmethyl)[trans-2-(4-{[2-fluoro-5-(trifluoromethyl)benzoyl]amino}phenyl)-cyclopropyl]carbamate (110 mg) in THF (1 mL) was ice-cooled, and 4N hydrochloric acid/cyclopentyl methyl ether solution (15 mL) was added. The mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (72.0 mg).

reactant | tert-butyl(cyclopropylmethyl)[trans-2-(4-{[2-fluoro-5-(trifluoromethyl)benzoyl]amino}phenyl)-cyclopropyl]carbamate | 110 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O)CC1CC1)=O | C26H28F4N2O3
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 15 mL | Cl.COC1CCCC1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-2-fluoro-5-(trifluoromethyl)benzamide hydrochloride | 72.0 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O | InChI=1S/C21H20F4N2O.ClH/c22-18-8-5-14(21(23,24)25)9-17(18)20(28)27-15-6-3-13(4-7-15)16-10-19(16)26-11-12-1-2-12;/h3-9,12,16,19,26H,1-2,10-11H2,(H,27,28);1H/t16-,19+;/m0./s1
